US04673746
7-chloro-6-methoxy-3-(2-pyridyl)-1,2-benzisoxazole (24.4 g) is refluxed for 1.5 hours in 450 ml of 48% HBr. The precipitated hydrobromide salt is filtered off, washed with ether and neutralized with 10% NaHCO3 solution. The free base is filtered off and dried, giving 7-chloro-6-hydroxy-3-(2-pyridyl)-1,2-benzisoxazole, mp 209°-211° C.

reactant | 7-chloro-6-methoxy-3-(2-pyridyl)-1,2-benzisoxazole | 24.4 g | ClC1=C(C=CC=2C(=NOC21)C2=NC=CC=C2)OC | C13H9ClN2O2
solvent | HBr | 450 ml | Br | BrH
product | 7-chloro-6-hydroxy-3-(2-pyridyl)-1,2-benzisoxazole | ClC1=C(C=CC=2C(=NOC21)C2=NC=CC=C2)O | C12H7ClN2O2
